US05304557
A. Methyl 3-(2,2-diethoxyethyl)-4-oxo-3H-phthalazin1-ylacetate
To a solution containing potassium t-butoxide (5.91 g), methyl 4-oxo-3H-phthalazin-1-ylacetate (10.91 g) and DMF (50 ml) was added bromoacetaldehyde diethylacetal (10.83 g), and the reaction mixture was allowed to stir at room temperature for 48 hours. The reaction mixture was poured onto water, extracted with ethyl acetate and the ethyl acetate layer was collected and dried. Upon evaporation of the solvent, a clear oil was obtained which upon standing gave a white solid (yield, 5.2 g; m.p. 68° C.).

reactant | potassium t-butoxide | 5.91 g | CC(C)([O-])C.[K+]
reactant | methyl 4-oxo-3H-phthalazin-1-ylacetate | 10.91 g | O=C1NN=C(C2=CC=CC=C12)CC(=O)OC | C11H10N2O3
reactant | bromoacetaldehyde diethylacetal | 10.83 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 3-(2,2-diethoxyethyl)-4-oxo-3H-phthalazin1-ylacetate | C(C)OC(CN1N=C(C2=CC=CC=C2C1=O)CC(=O)OC)OCC | C17H22N2O5
